US05571921
1-Chloro-2-(2-carboxy-4-chlorophenyl)amino-2-oxoethane
12.5 g (73 mmol) of 2-amino-5-chlorobenzoic acid are initially introduced into 500 ml of acetonitrile and treated with 9.0 g (80 mmol) of chloroacetyl chloride with stirring, the temperature being kept at 20°-25° C. (ice-bath). 22 g (0.16 mol) of finely pulverized potassium carbonate are then introduced and the mixture is stirred overnight at room temperature. The batch is adjusted to pH 2 with dilute hydrochloric acid and the acetonitrile is stripped off on a rotary evaporator. The precipitate is filtered off with suction and washed well with water. The crude product is treated with sodium bicarbonate solution and stirred. Insoluble matter is filtered off with suction and the filtrate acidified with dilute hydrochloric acid to pH 2. The precipitated product is filtered off with suction and dried. Yield: 7 g (77.3% of theory) M.p.: 188° C.

reactant | 2-amino-5-chlorobenzoic acid | 73 mmol, 12.5 g | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | chloroacetyl chloride | 80 mmol, 9.0 g | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1-Chloro-2-(2-carboxy-4-chlorophenyl)amino-2-oxoethane | ClCC(=O)NC1=C(C=C(C=C1)Cl)C(=O)O | C9H7Cl2NO3
